US06117866
a) N-(tert-butoxycarbonyl)-N-methyl-2-(4-pyridyl)ethanamine
A solution of N-methyl-2-(4-pyridyl)ethanamine (10 g, 74 mmol) in dichloromethane (250 mL) was stirred at 0° C., and treated with di-tert-butyl dicarbonate (16 g, 74 mmol) and triethylamine (10.2 mL, 74 mmol). The mixture was stirred for 24 h, diluted with chloroform and washed with 5% sodium bicarbonate. The organic phase was dried and concentrated to give the title compound.

reactant | N-methyl-2-(4-pyridyl)ethanamine | 74 mmol, 10 g | CNCCC1=CC=NC=C1 | C8H12N2
reactant | di-tert-butyl dicarbonate | 74 mmol, 16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 74 mmol, 10.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(tert-butoxycarbonyl)-N-methyl-2-(4-pyridyl)ethanamine | C(C)(C)(C)OC(=O)N(CCC1=CC=NC=C1)C | C13H20N2O2
